US05623081
2,4-Difluoro-alpha-2-propenylbenzenemethanol
Under anhydrous condition at 0° C., a minute of 18.0 g of freshly distilled 2,4-difluorobenzaldehyde and 120 ml of diethyl ether is treated, dropwise, with 139 ml of 1M allyl magnesium bromide. The reaction is stirred at 0° C. for 1 hour then slowly allowed to warm to room temperature. After 5 hours, thin layer chromatography indicates complete reaction. The mixture is cooled to 0° C. and quenched by the dropwise addition of 100 ml of ice cold saturated ammonium chloride. Two hundred ml of diethyl ether is added and the layers are separated. The aqueous layer is extracted with diethyl ether. The organic layers are combined, washed twice with saturated sodium chloride, dried , filtered and concentrated in vacuo. The residue is purified by Kugelrohr distillation (100° C.) to give 19.9 g of the desired product as a mixture of isomers.

reactant | 2,4-difluorobenzaldehyde | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | allyl magnesium bromide | 1M, 139 ml | C(C=C)[Mg]Br
solvent | diethyl ether | 120 ml | C(C)OCC | C4H10O
product | 2,4-Difluoro-alpha-2-propenylbenzenemethanol | 19.9 g | FC1=C(C=CC(=C1)F)C(O)CC=C | C10H10F2O
